US05368852
100.0 g of pilocarpine hydrochloride was dissolved in 900 ml of deionized water, and 300.0 g of Amberlite IRP69 was added while stirring. The mixture was stirred for 1 hour to yield a pilocarpine-resin complex. Then, the complex was treated with PEG and coated with the diffusion barrier material similarly as in Example 1 to obtain a coated pilocarpine-resin complex.

reactant | pilocarpine hydrochloride | 100.0 g | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C.Cl
solvent | water | 900 ml | O | H2O
product | pilocarpine | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C | C11H16N2O2
